US08492401B2
A suspension of methyl 6-chloro-5-nitronicotinate (1 eq), iron powder (5.2 eq), and NH4Cl3 (5.3 eq) in MeOH was heated at 75° C. for 2 h. The mixture was passed through a pad of celite while hot and concentrated in vacuo to give methyl 5-amino-6-chloronicotinate (56% yield).

reactant | methyl 6-chloro-5-nitronicotinate | 1 eq | ClC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H5ClN2O4
solvent | MeOH | CO | CH4O
catalyst | iron | 5.2 eq | [Fe] | Fe
product | methyl 5-amino-6-chloronicotinate | 56% yield | NC=1C(=NC=C(C(=O)OC)C1)Cl | C7H7ClN2O2
